US06608059B1
b) 5-(2,6-dichlorobenzyloxy)-1-[3-(1H-tetrazol-5-yl)propyl]-1H-indole-2-carboxylic Acid Isobutyl Amide
To a solution of 1-(3-cyanopropyl)-5-(2,6-dichlorobenzyloxy)-1H-indole-2-carboxylic acid isobutyl amide (0.076 g, 0.17 mmol) in toluene (10 mL) was added azidotrimethylsilane (0.066 mL, 0.50 mmol) and dibutyltin oxide (0.012 g, 0.050 mmol). The reaction mixture was heated to reflux and stirred under argon at reflux temperature for 40 h. The solution was then cooled and the toluene removed under reduced pressure. Methanol was added and removed under reduced pressure. Ethyl acetate was added and the reaction mixture was washed with water and brine. The organic layer was dried over MgSO4, filtered, and the solvent removed under reduced pressure. Purification by flash chromatography (silica gel, 10% methanol/dichloromethane) yielded a white solid (0.032 g, 38%). MS(ES) m/e 501.2 [M +H]+.

reactant | 1-(3-cyanopropyl)-5-(2,6-dichlorobenzyloxy)-1H-indole-2-carboxylic acid isobutyl amide | 0.17 mmol, 0.076 g | C(C(C)C)NC(=O)C=1N(C2=CC=C(C=C2C1)OCC1=C(C=CC=C1Cl)Cl)CCCC#N | C24H25Cl2N3O2
reactant | azidotrimethylsilane | 0.50 mmol, 0.066 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | dibutyltin oxide | 0.050 mmol, 0.012 g | C(CCC)[Sn](CCCC)=O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(2,6-dichlorobenzyloxy)-1-[3-(1H-tetrazol-5-yl)propyl]-1H-indole-2-carboxylic Acid Isobutyl Amide | 0.032 g, 38% | C(C(C)C)NC(=O)C=1N(C2=CC=C(C=C2C1)OCC1=C(C=CC=C1Cl)Cl)CCCC1=NN=NN1 | C24H26Cl2N6O2
